US04556649
3.21 g of bishydroxymethylene-3,4-dichlorophenyl-hydroxymalonic acid diamide (0.01 mol) are kept at 50° C. with 3 g of piperidine and 3 drops of boron trifluoride in 50 ml of dioxane for 8 hours. After the addition of 0.5 ml of triethylamine, the mixture is evaporated down, the residue is taken up with ether, and the product is filtered off under suction. 6.7 g of bis-piperidinomethylene-3,4-dichlorophenyl-hydroxymalonic acid diamide (73% of theory) of melting point 195° C. are obtained.

reactant | bishydroxymethylene-3,4-dichlorophenyl-hydroxymalonic acid diamide | 0.01 mol, 3.21 g | OC=NC(C(C(=O)N=CO)(O)C1=CC(=C(C=C1)Cl)Cl)=O | C11H8Cl2N2O5
reactant | piperidine | 3 g | N1CCCCC1 | C5H11N
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | boron trifluoride | 3 drops | B(F)(F)F | BF3
product | bis-piperidinomethylene-3,4-dichlorophenyl-hydroxymalonic acid diamide | 6.7 g, 73% | N1(CCCCC1)C=NC(C(C(=O)N=CN1CCCCC1)(O)C1=CC(=C(C=C1)Cl)Cl)=O | C21H26Cl2N4O3
